US05328911
2-(4-Chloro-4'-methylbiphenyl-2-yl)-4,4-dimethyloxazoline
A THF solution (450 ml) of 46.0 g of 4-bromotoluene was dropwise added to 6.38 g of magnesium in a nitrogen stream. After heating under reflux for 40 min, the reaction mixture was dropwise added at room temperature to a THF solution (260 ml) of 30 g of 2-(4-chloro-2-methoxyphenyl)-4,4-dimethyloxazoline. The mixture was stirred at room temperature for 2 hr and then cooled, and an aqueous ammonium chloride was added thereto. The mixture was extracted with ethyl acetate, and the extract was washed with a dilute sodium hydroxide solution and a saline solution, dried over anhydrous magnesium sulfate and then concentrated to prepare 38 g of the title compound in a crude form.

reactant | 4-bromotoluene | 46.0 g | BrC1=CC=C(C=C1)C | C7H7Br
reactant | magnesium | 6.38 g | [Mg] | Mg
reactant | 2-(4-chloro-2-methoxyphenyl)-4,4-dimethyloxazoline | 30 g | ClC1=CC(=C(C=C1)C=1OCC(N1)(C)C)OC | C12H14ClNO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 260 ml | C1CCOC1 | C4H8O
solvent | THF | 450 ml | C1CCOC1 | C4H8O
product | 2-(4-Chloro-4'-methylbiphenyl-2-yl)-4,4-dimethyloxazoline | ClC1=CC(=C(C=C1)C1=CC=C(C=C1)C)C=1OCC(N1)(C)C | C18H18ClNO
